US08048909B2
5-(4-Fluorophenyl)-2-methyl-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde
[5-(4-Fluorophenyl)-2-methyl-1-(phenylsulfonyl)-1H-pyrrol-3-yl]methanol (1.08 g) was dissolved in acetonitrile (20 mL), tetra-n-propylammonium perruthenate (100 mg), N-methylmorpholine N-oxide (0.52 g) and molecular sieves 4A powder (1.00 g) were added, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated under reduced pressure, and the residue was suspended in ethyl acetate and filtered through celite. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=3:1) to give the title compound as colorless crystals (yield 0.71 g, 66%).

reactant | [5-(4-Fluorophenyl)-2-methyl-1-(phenylsulfonyl)-1H-pyrrol-3-yl]methanol | 1.08 g | FC1=CC=C(C=C1)C1=CC(=C(N1S(=O)(=O)C1=CC=CC=C1)C)CO | C18H16FNO3S
reactant | N-methylmorpholine N-oxide | 0.52 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
catalyst | tetra-n-propylammonium perruthenate | 100 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 5-(4-Fluorophenyl)-2-methyl-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde | yield 0.71 g, 66% | FC1=CC=C(C=C1)C1=CC(=C(N1S(=O)(=O)C1=CC=CC=C1)C)C=O | C18H14FNO3S
